Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M who originally presented to ___ 
complaining of 3 days of epigastric and chest pain, which he 
attributed to acid reflux. It was persistant despite 
pantoprazole and NSAIDs. He was seen in clinic, where EKG 
reportedly showed ST elevations in the anterolateral leads. He 
was sent to the ED and taken to the cath lab, where he was found 
to have 98% occlusion of OM2 which is now s/p DES. He had 
recurrent chest pain 1hr 20min after cath, and was taken back to 
the cath lab, but there was no evidence of new thrombosis.  He 
also had low grade fevers, and hypoxemia, with negative PE on 
CAT scan but bilateral LL consolidations, concerning for 
pneumonia, with productive sputum, and was started on abx 
(ceftriaxone ___ then on levaquin since ___- ). TTE on day of 
cath ___ showed LVEF 58%, hypokinetic basal inferolateral wall, 
but no pericardial effusions, but on day of transfer ___ repeat 
echo showed moderate pericardial effusion with early signs of 
tamponade, normal LVEF and was HDS. 

Vitals on transfer were T36.8 82 124/89 18 97% 2L NC, then 
98-100%RA.  On arrival he was in no acute distress, HDS, 
complaining of subjective SOB without chest pain.  Complained of 
R sided HA, and R shoulder pain ___ without other neurologic 
symptoms.  
 
REVIEW OF SYSTEMS  
ROS otherwise positive for productive cough x 3 days, which has 
been improving, generalized discomfort sinus/bilateral ear 
congestion, and frequent hiccups. 
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias,  hemoptysis, black stools or red 
stools. He denies recent fevers, chills or rigors, no weight 
loss, joint pains or rash. All of the other review of systems 
were negative.  
 
Cardiac review of systems is notable for absence of chest pain, 
paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.  
 

 
Past Medical History:
1. . CARDIAC RISK FACTORS: +Dyslipidemia, + CAD
2. CARDIAC HISTORY:  
-CABG:  None
-PERCUTANEOUS CORONARY INTERVENTIONS: None in past until current 
admission at ___ ___: s/p DES to LCX OM2
-PACING/ICD:  None
3. OTHER PAST MEDICAL HISTORY:  
- GERD s/p Ni___ in ___
- hiatal hernia 
- colonic polyps
- aortic ectasia
- diverticulitis
- carotid disease
- BPH
- elevated LFTs 
- knee surgery ___
- duodenal polyps
- depression
- elevated ESR
- h/o mild subcarinal lymphadenopathy

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; Father died of leukemia, pneumonia at age 
___, Mother alive age ___, has a "valve problem" no surgeries, 1 
brother age ___ is healthy. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T36.8 82 124/89 18 97% 2L NC, 98-100% RA
Weight 77.9 kg
___:  Sitting up in bed, well-developed well-nourished man 
in NAD but becomes SOB while talking without any desats. 
HEENT:  EOMI, PERRL, oropharynx is clear
Neck:  JVP 8 cm, No LAD, No thyromegaly
CV:  RRR, no m/r/g heard; pulsus 8 mm Hg
Lungs: CTAB no crackles or wheezes 
Abdomen:  ND, BS present, mild "discomfort" on RUQ palpation 
without rebound, guarding, negative ___. otherwise 
nontender throughout
GU:  No CVAT
Ext:  No edema, warm, well perfused
Neuro:  Alert, oriented, moves all four extremities 
symmetrically
Skin:  Ecchymoses over R groin. 
Pulses:  2+ DP pulses, R fem pulse intact, no bruits heard, 
ecchymoses present over groin. 

DISCHARGE PHYSICAL EXAM:
VS - 98.4 117/69 101 16 96% RA
___: no acute distress
HEENT: sclera icteric but improved since prior day, sublingual 
icterus noted, EOMI, PERRL
Neck: supple, no adenopathy. JVP 1-2 cm above right clavicle
CV: distant heart sounds, regular rhythm, tachycardic, no murmur 
rub or gallop appreciated, pulsus is 5
Lungs: clear to auscultation bilaterally, diminished air entry 
bilaterally at bases
Abdomen: +BS, nontender, nondistended
Ext: warm and well perfused, no peripheral edema, 2+ DP radial 
pulses, 2+ bilateral radial pulses
Neuro: CN II-XII grossly intact, no focal deficits, gait normal
 
Pertinent Results:
RESULTS FROM OSH (___)
LABS at OSH: 
CPK 78, MB fraction <0.5, Troponin I highest 0.197 (after PCI)
H/H 12.4/37.3 Cr 0.6, Alk phos 172, Tbili 2.7, Dbili 1.8 Albumin 
2.8,  CRP >109, ESR 97, Rheumatoid factor <10.0 (normal <15), 
syphilis IGG ab nonreactive, C3 199 (88-201), C4 55 (___).

PENDING: ANC, ___, Anti-smooth muscle Ab.  

Cholesterol 169 HDL 27 ___ 112 LDL 120
BNP 225
TSH 0.84
Hgb A1c 5.5 
Hepatitis A, B, C negative
Sputum culture 1+ GPC in clusters
Blood cultures negative, Legionella pneumoniae antigen negative. 
Streptococcal pneumoniae antigen negative.

TTE ___
Ejection fraction is estimated at 58%.  Markedly hypokinetic 
motion of the basal inferolateral wall noted in the left 
ventricle.  Aortic valve leaflets are focally thickened. Normal 
mitral valve, normal tricuspid valve structure and function.  
Normal PA systolic pressure.  Pulmonic valve not well 
visualized. Normal left atrium. Normal right atrium. No evidence 
of pericardial effusion. 

CT chest with contrast ___
1.Bibasilar lower lobe consolidations suspicious for pneumonia. 
Minimal adjacent pleural effusions. 
2.Small new pericardial effusion.  Questionable wall thickening 
of the ascending aorta without calcification.  Nonspecific in 
nature though correlation recommended to exclude the possibility 
of arteritis.
3.Mild mediastinal adenopathy

ADMISSION LABS
___ 10:20PM BLOOD WBC-8.5 RBC-4.07* Hgb-12.7* Hct-36.2* 
MCV-89 MCH-31.3 MCHC-35.2* RDW-12.8 Plt ___
___ 10:20PM BLOOD Neuts-70.5* ___ Monos-9.1 Eos-1.1 
Baso-0.5
___ 10:20PM BLOOD ___ PTT-35.2 ___
___ 10:20PM BLOOD Glucose-109* UreaN-16 Creat-0.9 Na-133 
K-3.7 Cl-93* HCO3-26 AnGap-18
___ 10:20PM BLOOD ALT-50* AST-66* CK(CPK)-73 AlkPhos-536* 
TotBili-2.1* DirBili-1.7* IndBili-0.4
___ 10:20PM BLOOD GGT-718*
___ 10:20PM BLOOD CK-MB-1 cTropnT-<0.01
___ 10:20PM BLOOD Albumin-3.8 Calcium-9.5 Phos-3.7 Mg-2.3

EKG: 
___ Rate 78 bpm, normal axis, PR depression leads II, III 
and diffuse ST segment elevations V2-V6 and limb leads. 

___ Rate 79 bpm, normal axis, diffuse ST segment elevations 
as in tracing #1 with PR segment depression most likely acute 
pericarditis. Compared to tracing #1 the findings are similar.  

TTE:
___ Impression: small-to-moderate pericardial effusion with 
evidence of early cardiac tamponade; inferior posterior 
hypokinesis  

___ Impression: Left ventricular wall thicknesses and cavity 
size are normal. The mitral valve appears structurally normal 
with trivial mitral regurgitation. There is a small to moderate 
sized circumferential pericardial effusion. There is 
significant, accentuated respiratory variation in 
mitral/tricuspid valve inflows, consistent with impaired 
ventricular filling but no right atrial or right ventricular 
diastolic collapse.
Compared with the prior study (images reviewed) of ___, 
the pericardial effusion is similar. 

CXR: 
___ No previous images.  The heart is at the upper limits of 
normal in 
size and there is no vascular congestion or pleural effusion.  
There is some vague increased opacification at the left base.  
Although this could merely reflect atelectasis, in the 
appropriate clinical setting, supervening pneumonia would have 
to be considered. 

RUQ US: 
___ No evidence of cholecystitis or cholelithiasis.  No 
acute 
findings.  Gallbladder partially contracted, consistent with 
history of 
patient recently eating.   

CT head w/o contrast (for "worst headache of my life")
___
No evidence of acute intracranial process

___
___
No evidence of common bile duct dilation. No evidence of 
obstruction (PRELIM)

Hospital stay labs:
___ 06:17AM BLOOD WBC-8.1 RBC-3.89* Hgb-11.8* Hct-33.8* 
MCV-87 MCH-30.4 MCHC-35.0 RDW-13.0 Plt ___
___ 06:17AM BLOOD Glucose-99 UreaN-14 Creat-0.7 Na-135 
K-3.4 Cl-98 HCO3-25 AnGap-15
___ 06:17AM BLOOD ALT-44* AST-57* AlkPhos-484* TotBili-2.0*
___ 06:17AM BLOOD Mg-2.2

___ 05:40AM BLOOD WBC-11.4* RBC-4.30* Hgb-13.3* Hct-38.5* 
MCV-89 MCH-31.0 MCHC-34.7 RDW-12.9 Plt ___
___ 05:40AM BLOOD Glucose-107* UreaN-24* Creat-0.9 Na-135 
K-4.5 Cl-101 HCO3-26 AnGap-13
___ 05:40AM BLOOD Lipase-36
___ 05:40AM BLOOD Mg-2.3
___ 06:00AM BLOOD ALT-65* AST-64* AlkPhos-529* TotBili-3.5*

___ 06:18PM BLOOD ___ PTT-34.8 ___
___ 06:00AM BLOOD calTIBC-296 Ferritn-536* TRF-228

___ 12:50PM BLOOD ALT-53* AST-42* AlkPhos-516* TotBili-3.9* 
DirBili-2.9* IndBili-1.0

___ 07:55AM BLOOD HIV Ab-NEGATIVE
___ 06:00AM BLOOD tTG-IgA-5
___ 06:00AM BLOOD AMA-NEGATIVE
___ 05:40AM BLOOD Smooth-NEGATIVE
___ 06:00AM BLOOD TSH-0.86

DISCHARGE LABS:
___ 07:55AM BLOOD WBC-9.6 RBC-3.66* Hgb-11.1* Hct-32.5* 
MCV-89 MCH-30.3 MCHC-34.0 RDW-13.0 Plt ___
___ 07:55AM BLOOD ___ PTT-35.5 ___
___ 07:55AM BLOOD Glucose-85 UreaN-14 Creat-0.7 Na-135 
K-3.5 Cl-100 HCO3-25 AnGap-14
___ 07:55AM BLOOD ALT-50* AST-43* LD(LDH)-166 AlkPhos-522* 
TotBili-3.1*
___ 07:55AM BLOOD Mg-2.___ M h/o hyperlipidemia, GERD s/p ___, presented with 
concern for anterolat STEMI s/p DES to OM2 on ___ at OSH, 
transferred to ___ with pericardial effusion concerning for 
early tamponade on echo and also found to have transaminitis, 
elevated alkaline phosphatase and direct hyperbilirubinemia.  
 
ACTIVE ISSUES
# Acute pericardial effusion:  
Patient was found to have new pericardial effusion, which had 
not initially been seen on TTE on day of PCI ___, but with 
small effusion initially noted on CT chest ___.  However, on 
review of prior EKGs from ___, patient had diffuse ST elevation 
and PR depressions, concerning for pericarditis.  On day of 
transfer, patient had been noted to have repeat TTE with 
moderate pericardial effusion with early signs of tamponade.  
His LVEF was normal and he was HDS, with pulsus ranging from 
___. Repeat TTE was unchanged, and his pulsus remained stable.  
He had been started on colchicine at ___ which was continued.  
Given stable effusion, and no hemodynamic compromise, there was 
no need for drainage.  Pulsus decreased to 7, and he was 
eventually stable for the ___ medicine floor. On the floor 
his pulsus was ___, and at no point did he have dyspnea or 
further elevation of his JVP.  He was discharged on colchicine 
0.6 mg BID and aspirin 81 mg daily. The etiology of his 
pericarditis and pericardial effusion is unclear, and could be 
idiopathic. Alternative explanations include part of autoimmune 
process ___ from ___ pending at time of discharge) or 
Dressler's syndrome in setting of previous MI from OM2 occlusion 
causing TTE findings 
 
# Elevated LFTs:  
Elevated alk phos, with direct hyperbili, and mildly elevated 
AST/ALT. GGT was elevated, although patient stated only having 
"a couple" wine/beer per week.  He had mild discomfort to RUQ 
palpation, but RUQ US was unremarkable, hepatitis serologies 
were negative.  Tbili trended up during hospitalization and 
hepatology was consulted.  ___ showed no evidence of 
obstruction. Antibody tests for autoimmune hepatitis 
(anti-smooth muscle antibody) and primary biliary cirrhosis 
(anti-mitochondrial antibody) were negative. HIV-1 antibody was 
negative. tTG-IgA was within normal limits. Tbili began to trend 
downwards, and further work-up was deferred to outpatient 
setting. He will by contacted by hepatology here at ___ for a 
follow-up appointment within two weeks, and was discharged with 
instructions to have liver labs drawn prior to follow-up. 

# CAD:  
Had DES placed in OM2 for 98% occlusion.  Was continued on 
atorvastatin, metop, brilinta.  No new EKG changes other than 
continued diffuse ST elevation for pericardititis. Pt was 
subsequently switched from atorvastatin to pravastatin (which pt 
was previously prescribed) and on brillinta with close follow-up 
with his outpatient cardiologist.

# Epigastric/Chest pain: 
Non-cardiac. Likely secondary to known GERD, he is s/p ___ 
fundoplication (___) for hiatal hernia.  At ___, he underwent 
cath, found to have 98% occlusion of OM2, s/p DES.  He continued 
to have CP, had repeat cath on the same day with patent stent 
and no other lesions.  He continued to have epigastric and 
R-sided chest pain, with no EKG or TTE changes, and TTP over his 
epigastrum and RUQ.  Pt reported a h/o constipation and was 
placed on a GI cocktail with an aggressive bowel regimen PRN. 
Over the course of several days, his epigastric pain improved 
and he was able to eat without difficulty. He was discharged on 
his home GERD regimen.

# Diarrhea: 
On ___ pt reported several episodes of diarrhea with 
preceding abdominal pain after eating. Unclear etiology with pt 
on aggressive bowel regimen, taking colchicine and brief course 
of abx (levofloxacin).  C. diff stool negative. Most likely due 
to colchicine.

# SOB: 
Subjective SOB without any desaturations on RA and HDS and no PE 
on CT.  Possibly secondary to recent PNA seen on CT at OSH, 
which was resolving clinically and lungs clear on exam.  He was 
continued on levofloxacin for CAP 5 day course (___). 
After completing levofloxacin, he had no further complaints of 
SOB. 

CHRONIC ISSUES
# Depression: 
Pt has h/o depression and was continued on bupropion.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 40 mg PO DAILY 
2. Drisdol (ergocalciferol (vitamin D2)) 50,000 unit Oral weekly 

3. Famotidine 40 mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. BuPROPion 150 mg PO BID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Pravastatin 40 mg PO DAILY 
3. Colchicine 0.6 mg PO BID Duration: 30 Days 
RX *colchicine [Colcrys] 0.6 mg 0.6 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*2
4. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*3
5. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet,delayed release (___) by 
mouth twice a day Disp #*60 Tablet Refills:*3
6. Drisdol (ergocalciferol (vitamin D2)) 50,000 unit Oral weekly 

7. TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*2
8. BuPROPion 150 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Pericarditis
Gastroesophageal reflux disease
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized for chest pain with concern for a heart 
attack. You were found at ___ to have a 
blockage in one of the blood vessels that supplies the heart, 
and a stent was placed to keep it open. You were also found to 
have inflammation of the lining around your heart as well as 
fluid within that lining (pericardial effusion). You were 
transferred to ___ over concern that the fluid was limiting 
your heart function. Here at ___ the fluid around your heart 
was stable and did not worsen. You are being treated for this 
inflammation with aspirin and colchicine, which you should 
continue taking for 6 months.  It is also extremely important 
that you take your TiCAGRELOR twice a day for at least the next 
year!! 

Your other major issue while you were here were elevations in 
liver enzymes (transaminases) as well as your bilirubin (direct 
bilirubinemia) and alkaline phosphatase. These lab values were 
concerning and we evaluated this with MR imaging (___). The 
___ was felt to be a normal study. As your bilirubin was 
improving, and you were doing well overall with tolerating food 
and having no difficulty breathing, you were able to go home. 
You will have an appointment with our liver doctors here at 
___ in the next few weeks, they will call you with an 
appointment. You should have your primary care doctor, ___. 
___ the following tests: AST(SGOT), ALT (SGPT), 
GGT, Alkaline Phosphatase, Total Bilirubin, Direct Bilirubin. 
You should get a copy of the results and also have your doctor 
fax them to the ___ liver clinic (to get the fax number call 
the liver clinic at ___ and ask for the fax number). 
You should also bring a copy of the results to your next 
appointment.

If you are to experience difficulty breathing, chest pain like 
something sitting your chest, or severe abdominal pain on the 
right side that is different from your reflux pain, please call 
your doctor or go to the emergency department. 

 
Followup Instructions:
___